2194-03-15 08:15:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   Pt put on CPAP overnight with good effect. Last ABG 7.36/52/62/31
   Patient unable to provide history: Language barrier
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**3-3**] language barrier
   Flowsheet Data as of  [**2194-3-15**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 62 (55 - 64) bpm
   BP: 140/48(72) {78/35(44) - 140/56(72)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     45 mL
                                                                     81 mL
   PO:
             TF:
   IVF:
                                                                     45 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    180 mL
   Urine:
                                                                    170 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 590) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.36/52/62/30/2
   Ve: 4.3 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: on BIPAP
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 4+, Left: 4+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   164 K/uL
   9.2 g/dL
   89 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.4 mEq/L
   27 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
   WBC
   3.2
   Hct
   28.7
   Plt
   164
   Cr
   2.3
   TCO2
   33
   31
   Glucose
   89
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   Assessment: This is a 82 year-old female with a history of PE, MDS,
   CKD, anemia, CAD who presents with hypoxia and hypotension.
   Plan:
   # Hypotension: Likely in the setting of dehydration and diarrhea with
   poor PO intake.  Other possibilites include infection.  Currently
   responsive to fluids.  other causes could include relative adrenal
   insufficiency since patient is on chronic steroids.  Unlikely this is
   cardiogenic since patient has no new ECG changes, no CP.  Recently had
   ECHO with hyperdynamic EF and e/o diastolic HF. Unlikely to be blood
   loss since HCT stable
   - gentle IVF boluses to keep SBP>90 (home baseline>90).
   - consider A-line if continues to be hypotensive; currently
   normotensive. Needs ABG this afternoon
   - after further discussion with daughter, [**Name (NI) 2643**] and pressors OK if
   necessary, will attempt 2nd IV for now
   - check blood cultures
   - treat ? LLL PNA with vanco (dosed by level which was [**3-6**] this
   am)/levo.  If no improvement, consider broadening coverage to zosyn.
   (need ID approval for IV levo)
   - check C.diff
   -CT chest noncontrast to distinguish btwn effusion vs infiltrate vs
   collapse today
   # Hypoxia: on O2 at baseline; approximately 2.5L at home.  Currently,
   satting upper 90
s on BIPAP 15/5.  Etiology includes PNA, effusion,
   volume overload. Unlikely to be PE since patient is on lovenox.
   - treat with vanco/levofloxacin for now
   - no need for [**Female First Name (un) **] at this time.
   - will hold off on diuresis right now given hypotension and mild [**Last Name (un) **]
   - CT chest as above
   - recheck ABG this afternoon.
   # [**Last Name (un) **] on CKD: likely pre-renal given poor PO intake and diarrhea.
   - f/u urine lytes
   - monitor UOP
   # Altered MS: per daughter, patient is not at baseline.  Lethargy has
   not resolved on BIPAP.
   -CT head today
   # h/o DVT and PE: on lovenox at home; has significant bruising on exam
   - will cont home lovenox 70 mg daily for now
   #. Anemia: has MDS at baseline; also likely component of CKD.  Has
   received multiple blood transfusions in the past.
   - daughter wants to discuss port placement; will d/w Dr. [**Last Name (STitle) **] likely
   as outpt
   - tx for HCT<25
   - T&S active
   # leg pain- Significantly diminished this am. Overnight there was
   concern for fx (despite no h/o trauma), or infxn given exquisite
   tenderness.
   -f/u tibial Xrays
   -Wound care c/s re hemorrhagic bullous on right leg.
   # Comm:  patient. daughter [**Name (NI) 8060**] [**Telephone/Fax (1) 8061**]- will check in with her
   today
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2194-03-15 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yr old Russian speaking woman with hypotension and
   hypercapneic/hypoxemic resp failure. PMHx of MDS, PE on lovenox, CKD,
   Crohn
s, recent admission for pneumonia sent home on O2, chronic
   prednisone.  Presented with low PO intake, low u/o, and one day of
   hypersomnolence, O2sat in 80s at home. Hypotensive with SBP of 69 in
   ED. Very fluid responsive
   24 Hour Events:
   Fluid resucitation - hypotension resolved
   Bipap 15/5 overnight with improvement of ABG
   Pan cultured
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-15**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 56 (55 - 64) bpm
   BP: 152/50(73) {78/35(44) - 152/56(73)} mmHg
   RR: 18 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     45 mL
                                                                     95 mL
   PO:
             TF:
   IVF:
                                                                     45 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    180 mL
   Urine:
                                                                    170 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 661 (426 - 661) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/52/62/30/2
   Ve: 4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Decreased BS LLL : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Lymphedema, 4cm hemorrhagic bullae RLE, LLE tenderness
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Multiple ecchymoses
   Neurologic: Lethargic
   Labs / Radiology
   9.2 g/dL
   164 K/uL
   89 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.4 mEq/L
   27 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
   WBC
   3.2
   Hct
   28.7
   Plt
   164
   Cr
   2.3
   TCO2
   33
   31
   Glucose
   89
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Imaging: CXR - Interval decrease in R effusion. LLL infiltrate vs
   effusion.  Volume overload.
   Microbiology: Pending
   ECG: Unremarkable.
   Assessment and Plan
   This is a 82 year-old female with a history of PE on lovenox, MDS, CKD,
   anemia, CAD who presents with hypoxia and hypotension and altered
   mental status.
   Plan:
   # Hypotension: Likely volume deplete due to FTT and diarrhea.  Will
   continue to r/o infectious source/sepsis.
   - Cautious IVF given showing signs of volume overload.   If worsening
   of oxygenation and low UOP with stable BP, will consider gentle
   diuresis.
   - Follow-up cultures/c.diff
   - On vanc/levo for empiric PNA coverage
   # Hypoxia: on O2 at baseline; approximately 2.5L at home.  Likely
   multi-factorial: LLL PNA ( radiographic improvement) and volume
   overload. Pt anticoagulated for h/o PE.
   - Continue vanc/levo
   - Continue BiPap as needed
   # [**Last Name (un) **] on CKD: likely pre-renal given poor PO intake and diarrhea.
   - Continue to follow creatinine while optimizing volume status.
   - Follow-up urine lytes.
   # Altered mental status: Likely [**3-3**] hypercarbia/infection.
   - Head CT to r/o any acute processes.
   # Comm:  patient. daughter [**Name (NI) 8060**] [**Telephone/Fax (1) 8061**]
   [**Name2 (NI) **] issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI, Central line/pressors okay.
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2194-03-16 07:32:00 Physician Resident Progress Note
Chief Complaint: 82 year-old female with a history of PE, MDS, CKD,
   anemia, CAD who presents with hypoxia and hypotension.
   24 Hour Events:
   -Head CT: no acute changes per our read
   -Chest CT: consolidation at left base [**3-3**] infiltrate vs pleural
   effusion
   -Bilateral tib/fib film: soft tissue swelling bilaterally, no fx
   -was on BiPAP early in day but wasn't tolerating it well.  Fortunately,
   p.m. ABG off BiPap was 7.35/57/88.  No BiPap overnight as appeared
   comfortable.
   -talked to daughter about goals of care and how chronically ill her mom
   was, and about possibility of hospice.  Good convo.  She still wants to
   treat what's treatable but understands that at some point, her mom may
   not improve.
   -placed back on BiPap on a.m. of [**3-16**] for abg of 7.28/72/80
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-15**] 10:00 AM
   Levofloxacin - [**2194-3-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2194-3-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 61 (56 - 74) bpm
   BP: 144/61(80) {106/35(55) - 152/62(82)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    840 mL
                                                                     75 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    955 mL
   Urine:
                                                                  1,280 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (518 - 661) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.28/72/81.[**Numeric Identifier 607**]/29/3
   Ve: 4.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   8.0 g/dL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.9 mEq/L
   29 mg/dL
   105 mEq/L
   141 mEq/L
   24.8 %
   3.2 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
                             [**2194-3-15**]  04:44 PM
                             [**2194-3-16**]  06:11 AM
                             [**2194-3-16**]  06:44 AM
   WBC
   3.2
   Hct
   28.7
   24.8
   Plt
   164
   134
   Cr
   2.3
   2.3
   TCO2
   33
   31
   33
   35
   Glucose
   89
   89
   91
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   82 year-old female with a history of PE, MDS, CKD, anemia, CAD who
   presents with hypoxia and hypotension.
   # Hypotension: Likely in the setting of dehydration and diarrhea with
   poor PO intake.  Other possibilites include infection.  Currently
   responsive to fluids.  other causes could include relative adrenal
   insufficiency since patient is on chronic steroids.  Unlikely this is
   cardiogenic since patient has no new ECG changes, no CP.  Recently had
   ECHO with hyperdynamic EF and e/o diastolic HF. Unlikely to be blood
   loss since HCT stable
   - gentle IVF boluses to keep SBP>90 (home baseline>90).
   - consider A-line if continues to be hypotensive; currently
   normotensive. Needs ABG this afternoon
   - after further discussion with daughter, [**Name (NI) 2643**] and pressors OK if
   necessary, will attempt 2nd IV for now
   - check blood cultures
   - treat ? LLL PNA with vanco (dosed by level which was [**3-6**] this
   am)/levo.  If no improvement, consider broadening coverage to zosyn.
   (need ID approval for IV levo)
   - check C.diff
   -CT chest noncontrast to distinguish btwn effusion vs infiltrate vs
   collapse today
   # Hypoxia: on O2 at baseline; approximately 2.5L at home.  Currently,
   satting upper 90
s on BIPAP 15/5.  Etiology includes PNA, effusion,
   volume overload. Unlikely to be PE since patient is on lovenox.
   - treat with vanco/levofloxacin for now
   - no need for [**Female First Name (un) **] at this time.
   - will hold off on diuresis right now given hypotension and mild [**Last Name (un) **]
   - CT chest as above
   - recheck ABG this afternoon.
   # [**Last Name (un) **] on CKD: likely pre-renal given poor PO intake and diarrhea.
   - f/u urine lytes
   - monitor UOP
   # Altered MS: per daughter, patient is not at baseline.  Lethargy has
   not resolved on BIPAP.
   -CT head today
   # DVT and PE: on lovenox at home; has significant bruising on exam
   - will cont home lovenox 70 mg daily for now
   # Anemia: has MDS at baseline; also likely component of CKD.  Has
   received multiple blood transfusions in the past.
   - daughter wants to discuss port placement; will d/w Dr. [**Last Name (STitle) **] likely
   as outpt
   - tx for HCT<25
   - T&S active
   # leg pain- Significantly diminished this am. Overnight there was
   concern for fx (despite no h/o trauma), or infxn given exquisite
   tenderness.
   -f/u tibial Xrays
   -Wound care c/s re hemorrhagic bullous on right leg.
   # Comm:  patient. daughter [**Name (NI) 8060**] [**Telephone/Fax (1) 8061**]- will check in with her
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2194-03-16 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-15**] 10:00 AM
   Levofloxacin - [**2194-3-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2194-3-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-16**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 52 (50 - 74) bpm
   BP: 107/38(55) {106/35(55) - 152/62(82)} mmHg
   RR: 15 (14 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    840 mL
                                                                     74 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                  1,385 mL
   Urine:
                                                                  1,280 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                 -1,311 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (518 - 553) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.28/72/81.[**Numeric Identifier 607**]/29/3
   Ve: 4.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   134 K/uL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.9 mEq/L
   29 mg/dL
   105 mEq/L
   141 mEq/L
   24.8 %
   3.2 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
                             [**2194-3-15**]  04:44 PM
                             [**2194-3-16**]  06:11 AM
                             [**2194-3-16**]  06:44 AM
   WBC
   3.2
   Hct
   28.7
   24.8
   Plt
   164
   134
   Cr
   2.3
   2.3
   TCO2
   33
   31
   33
   35
   Glucose
   89
   89
   91
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR severely rotated, but may have increased pulmonary
   edema/effusions.
   Ct scan with large bilateral effusions and LLL atelectasis vs
   infiltrate.
   Microbiology: Urine culture negative.
   Assessment and Plan
   This is a 82 year-old female with a history of PE on lovenox, MDS, CKD,
   anemia, CAD who presents with hypoxia and hypotension and altered
   mental status.
    Plan:
   # Hypotension: Now resolved - likely volume deplete due to FTT and
   diarrhea.  Now with signs of volume overload.
   - Consider gentle diuresis.
   - Follow-up cultures/c.diff
   - On vanc/levo for empiric PNA coverage
   # Hypoxia: on O2 at baseline; approximately 2.5L at home.  Likely
   multi-factorial: LLL PNA ( radiographic improvement) and volume
   overload/effusions. Pt anticoagulated for h/o PE.
   - Continue vanc/levo
   - Continue BiPap as needed
 hopefully will transition to qhs BiPap
   - Consider tapping effusions if no improvement with diuresis
   - Follow ABGs
   # ARF on CKD: likely pre-renal given poor PO intake and diarrhea.
   Stable.
   - Follow creatinine with diuresis
   # Altered mental status: Likely [**3-3**] hypercarbia/infection.   Head CT
   unremarkable.  Mental status improving.
   - Head CT to r/o any acute processes.
   #PE/DVT: On lovenox with ARF
    - Will verify heme
s plan for treating with lovenox in ARF.
   Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: Boots, Lovenox
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR/DNI (do not intubate)
 goals of care reviewed with
   daughter/patient.
   Disposition :ICU
   Total time spent: 35 minutes

2194-03-17 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year-old female with a history of PE, MDS, CKD,
   anemia, CAD who presents with hypoxia and hypotension.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2194-3-16**] 12:00 PM
 NON-INVASIVE VENTILATION - START [**2194-3-16**] 09:00 PM
 NON-INVASIVE VENTILATION - START [**2194-3-16**] 09:00 PM
 NON-INVASIVE VENTILATION - STOP [**2194-3-17**] 04:01 AM
 NON-INVASIVE VENTILATION - STOP [**2194-3-17**] 04:06 AM
   -blood gas in morning 7.28/72/81 so restarted on bipap
   -13:28 ABG on BiPAP was 7.42/50/77/34 so given trial off BiPAP
   -Attempted to get blood gas off BiPAP later in evening but through a
   series of unfortunate events this was lost.  The patient is a difficult
   stick due to chronic edema/anasarca.  Put back on BiPAP empirically and
   repeat ABG was also on this.
   -Multiple discussions had with daughter about her reluctance to have
   any aggressive or invasive tests performed on her mother (including
   basic lab draws), she continues to be quite reluctant; this ultimately
   may lead to changes needing to be made in goals of care.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-15**] 10:00 AM
   Levofloxacin - [**2194-3-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-3-16**] 11:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 71 (50 - 80) bpm
   BP: 117/43(62) {94/29(46) - 147/61(80)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    330 mL
                                                                    119 mL
   PO:
                                                                    120 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    210 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    585 mL
   Urine:
                                                                  2,855 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,526 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 693 (553 - 693) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.46/43/123//6
   Ve: 9.9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   8.9 g/dL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   29 mg/dL
   105 mEq/L
   137 mEq/L
   27.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
                             [**2194-3-15**]  04:44 PM
                             [**2194-3-16**]  06:11 AM
                             [**2194-3-16**]  06:44 AM
                             [**2194-3-16**]  01:28 PM
                             [**2194-3-16**]  08:30 PM
                             [**2194-3-17**]  01:00 AM
                             [**2194-3-17**]  01:23 AM
   WBC
   3.2
   0.9
   3.5
   4.1
   Hct
   28.7
   24.8
   28.4
   27.5
   Plt
   164
   134
   165
   152
   Cr
   2.3
   2.3
   TCO2
   33
   31
   33
   35
   34
   32
   Glucose
   89
   89
   91
   Other labs: Differential-Neuts:57.3 %, Band:0.0 %, Lymph:33.9 %,
   Mono:7.2 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   82 year-old female with a history of PE, MDS, CKD, anemia, CAD who
   presents with hypoxia and hypotension.
   # Hypoxic/hypercapnic respiratory  failure:  Contributing factors
   include pneumonia, bilateral pleural effusions (R>L),  volume overload
   secondary to diastolic heart failure, and MSK weakness.  On a.m. of
   [**2194-3-16**], had acute on chronic hypercapnic respiratory failure in
   setting of not being on BiPap overnight.  Now is stabilized post
   BiPap.  CXR shows reduced right pleural effusion after lasix.
   - cont levofloxacin (day 1 = [**3-14**]); will not cont vanc given patient
   well appearance, low suspicion for MRSA
   - BiPap qhs
   - will defer [**Female First Name (un) **] given lovenox and clinical improvement with lasix
   - increase po lasix dose with goal of even to neg 500cc
   # Hypotension: Likely in the setting of dehydration and diarrhea with
   poor PO intake.  Initially, there was concern for sepsis or adrenal
   insufficiency but both etiologies unlikely.  Recently had ECHO with
   hyperdynamic EF and e/o diastolic HF.   Resolved.
   - continue to follow
   # Chronic renal insufficiency:  Patient
s creatinine is at baseline.
   - renally dose meds
   # Altered MS:  per daughter, patient was initially not at baseline, but
   lethargy has now resolved with correction of hypercapnia.  Head CT
   shows no acute process.
   - continue to follow
   # DVT and PE: on lovenox at home with LMW heaprin levels followed (last
   level 1.04 on [**2194-3-4**])
   - will cont home lovenox 70 mg daily
   - consider checking level
   # Anemia: has MDS at baseline; also likely component of CKD.  Has
   received multiple blood transfusions in the past.
   - daughter wants to discuss port placement; will d/w Dr. [**Last Name (STitle) **].
   - tx for HCT<25
   - T&S q3d
   # Leg ulcers
 no evidence of osteo on tib/fib films.
   -Wound care c/s re hemorrhagic bullous on right leg.
   # Comm:  patient. daughter [**Name (NI) 8060**] [**Telephone/Fax (1) 8061**]-
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2194-03-17 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BiPap overnight.
   Family refused thoracentesis.
   Diuresis 2.5L negative.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-15**] 10:00 AM
   Levofloxacin - [**2194-3-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-3-16**] 11:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-17**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 74 (52 - 82) bpm
   BP: 124/39(60) {94/29(46) - 147/54(77)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    330 mL
                                                                    373 mL
   PO:
                                                                    120 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    210 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    705 mL
   Urine:
                                                                  2,855 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,526 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 693 (693 - 693) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 24 cmH2O
   SpO2: 92%
   ABG: 7.46/43/123//6
   Ve: 9.9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   152 K/uL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   29 mg/dL
   105 mEq/L
   137 mEq/L
   27.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2194-3-14**]  08:40 PM
                             [**2194-3-15**]  02:49 AM
                             [**2194-3-15**]  04:40 AM
                             [**2194-3-15**]  04:44 PM
                             [**2194-3-16**]  06:11 AM
                             [**2194-3-16**]  06:44 AM
                             [**2194-3-16**]  01:28 PM
                             [**2194-3-16**]  08:30 PM
                             [**2194-3-17**]  01:00 AM
                             [**2194-3-17**]  01:23 AM
   WBC
   3.2
   0.9
   3.5
   4.1
   Hct
   28.7
   24.8
   28.4
   27.5
   Plt
   164
   134
   165
   152
   Cr
   2.3
   2.3
   TCO2
   33
   31
   33
   35
   34
   32
   Glucose
   89
   89
   91
   Other labs: Differential-Neuts:57.3 %, Band:0.0 %, Lymph:33.9 %,
   Mono:7.2 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR - Decreased effusions and interstitial infiltrates c/w
   diuresis.
   Assessment and Plan
   This is a 82 year-old female with a history of PE on lovenox, MDS, CKD,
   anemia, CAD who presents with hypoxia and hypotension and altered
   mental status.
    Plan:
   # Hypotension: Now resolved - likely volume deplete due to FTT and
   diarrhea.  Now with signs of volume overload.
   - Consider gentle diuresis.
   - Follow-up cultures/c.diff
   - On vanc/levo for empiric PNA coverage
   # Hypoxia: on O2 at baseline; approximately 2.5L at home.  Likely
   multi-factorial: LLL PNA ( radiographic improvement) and volume
   overload/effusions. Pt anticoagulated for h/o PE.
   - Continue vanc/levo
   - Continue BiPap as needed
 hopefully will transition to qhs BiPap
   - Consider tapping effusions if no improvement with diuresis
   - Follow ABGs
   # ARF on CKD: likely pre-renal given poor PO intake and diarrhea.
   Stable.
   - Follow creatinine with diuresis
   # Altered mental status: Likely [**3-3**] hypercarbia/infection.   Head CT
   unremarkable.  Mental status improving.
   - Head CT to r/o any acute processes.
   #PE/DVT: On lovenox with ARF
    - Will verify heme
s plan for treating with lovenox in ARF.
   Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-14**] 07:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes